US07432392B2
To a solution of 5-benzyloxy-4-fluoro-N,N-dimethyl-2-nitrobenzamide (1.06 g) in THF (3 mL) were added ethanol (12 mL) and water (1.5 mL), and to the solution were added ammonium chloride (893 mg) and reduced iron (933 mg). The resultant mixture was heated under reflux for 2 hours, allowed to stand for cooling to room temperature, and filtered through a Celite. The filtrate was concentrated and the residue was diluted with ethyl acetate. The extract was washed with successively with saturated aqueous sodium bicarbonate, water, and saturated brine, dried over sodium sulfate, and concentrated to give 2-amino-5-benzyloxy-4-fluoro-N,N-dimethylbenzamide (984 mg) as a crude product.

reactant | 5-benzyloxy-4-fluoro-N,N-dimethyl-2-nitrobenzamide | 1.06 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C(=O)N(C)C)C1)[N+](=O)[O-])F | C16H15FN2O4
reactant | ethanol | 12 mL | C(C)O | C2H6O
reactant | water | 1.5 mL | O | H2O
reactant | ammonium chloride | 893 mg | [Cl-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-amino-5-benzyloxy-4-fluoro-N,N-dimethylbenzamide | 984 mg | NC1=C(C(=O)N(C)C)C=C(C(=C1)F)OCC1=CC=CC=C1 | C16H17FN2O2
